US07531537B2
3-Amino-5-carboxy-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide
3-Amino-5-methoxycarbonyl-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide (2.01 g) is suspended in tetrahydrofuran (20 ml)-methanol, thereto is added 4 N aqueous sodium hydroxide solution (5 ml) under ice-cooling and the reaction solution is stirred at room temperature for 13 hours. The reaction solution is concentrated under reduced pressure, the resulting residue is diluted with water, and the mixture is adjusted to around pH 3 by pouring 10% hydrochloric acid. The precipitates are collected by filtration, washed with water and ethanol successively and dried to give the title compound (1.87 g).

reactant | 3-Amino-5-methoxycarbonyl-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide | 2.01 g | NC1=C(OC2=C1C=C(C=C2)C(=O)OC)C(=O)NC2=NC=C(C=C2)Cl | C16H12ClN3O4
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 4 N, 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Amino-5-carboxy-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide | 1.87 g | NC1=C(OC2=C1C=C(C=C2)C(=O)O)C(=O)NC2=NC=C(C=C2)Cl | C15H10ClN3O4
